US06162819
1-((5-Chloro-2-thienyl)methyl)-3-(5-hydroxymethyl-2-furyl)indazole:
The compound was prepared similarly to Example 14 from 1-((5-chloro-2-thienyl)methyl)-3-(5-ethoxycarbonyl-2-furyl)indazole by reduction with lithium aluminum hydride.

reactant | 1-((5-chloro-2-thienyl)methyl)-3-(5-ethoxycarbonyl-2-furyl)indazole | ClC1=CC=C(S1)CN1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)OCC | C19H15ClN2O3S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-((5-Chloro-2-thienyl)methyl)-3-(5-hydroxymethyl-2-furyl)indazole | ClC1=CC=C(S1)CN1N=C(C2=CC=CC=C12)C=1OC(=CC1)CO | C17H13ClN2O2S
